US08980911B2
3,5-Dichloro-N-ethyl-4-(1H-pyrrolo[2,3-c]pyridin-3-ylcarbonyl)benzamide was prepared from 1H-Pyrrolo[2,3-c]pyridine and 2,6-dichloro-4-(ethylcarbamoyl)benzene carbonyl chloride (Compound No. 2).

reactant | 1H-Pyrrolo[2,3-c]pyridine | N1C=CC=2C1=CN=CC2 | C7H6N2
reactant | 2,6-dichloro-4-(ethylcarbamoyl)benzene carbonyl chloride | ClC1=C(C(=CC(=C1)C(NCC)=O)Cl)C(=O)Cl | C10H8Cl3NO2
product | 3,5-Dichloro-N-ethyl-4-(1H-pyrrolo[2,3-c]pyridin-3-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NCC)C=C(C1C(=O)C1=CNC2=CN=CC=C21)Cl | C17H13Cl2N3O2
